US07732604B2
Synthesis of 2-(4-{1-[(7-fluoroquinolin-6-yl)methyl]-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl}-1H-pyrazol-1-yl)ethanol
7-fluoro-6-{[6-(1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl]methyl}quinoline (95 mg, 0.274 mmol), 2-iodoethanol (378 mg, 2.198 mmol), K2CO3 (75.8 mg, 0.548 mmol), DMAC 95 ml) were combined and heated in microwave at 120° C. for 4 h. The reaction mixture was concentrated and the resulting residue was purified via flash column chromatography eluted with 0-5% MeOH:CH2Cl2 to give the desired product as a solid (33.9 mg, 31%).

reactant | 7-fluoro-6-{[6-(1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl]methyl}quinoline | 0.274 mmol, 95 mg | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC=2C1=NC(=CN2)C=2C=NNC2 | C17H11FN8
reactant | 2-iodoethanol | 2.198 mmol, 378 mg | ICCO | C2H5IO
reactant | K2CO3 | 0.548 mmol, 75.8 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMAC | 95 ml | CC(=O)N(C)C | C4H9NO
product | 2-(4-{1-[(7-fluoroquinolin-6-yl)methyl]-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl}-1H-pyrazol-1-yl)ethanol | 33.9 mg, 31% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)CCO | C19H15FN8O
